US07811595B2
Preparation of [(4′-chloro-3-hydroxy-biphenyl-4-carbonyl)-amino]-acetic acid (11):
To a solution of [(4′-chloro-3-methoxy-biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester (0.053 g, 0.152 mmol) in CH2Cl2 (2 mL) at room temperature under nitrogen is added BBr3 (1.52 ml of a 1M solution in CH2Cl2, 1.52 mmol) dropwise. The resulting mixture is stirred for 3 days after which time the reaction is quenched with H2O (0.5 mL) then acidified to pH 1 with conc. HCl. The mixture is extracted with EtOAc (×2), the organic phase separated, dried (MgSO4), filtered and concentrated under reduced pressure. The crude material is purified by preparative HPLC to afford 0.019 g (41% yield) of the desired product as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.41 (1H, s), 9.19 (1H, s), 7.96 (1H, d, J=8.3 Hz), 7.74 (2H, d, J=8.7 Hz), 7.54 (2H, d, J=8.7 Hz), 7.21 (1H, d, J=1.7 Hz), 7.26 (1H, dd, J=8.3, 1.8 Hz), 3.99 (2H, d, J=5.5 Hz). HPLC-MS: m/z 306 [M+H]+.

reactant | [(4′-chloro-3-methoxy-biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester | 0.152 mmol, 0.053 g | C(C)OC(CNC(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)Cl)OC)=O | C18H18ClNO4
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [(4′-chloro-3-hydroxy-biphenyl-4-carbonyl)-amino]-acetic acid | 0.019 g, 41% yield | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NCC(=O)O)O | C15H12ClNO4
